Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
peanut allergy / ___ Contrast Media
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None 
attach
 
Pertinent Results:
Discharge exam: 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Clear to auscultation bilaterally. No wheezing.  Breathing 
is ___
GI: Abdomen soft, ___ to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Laboratory data: 

___ 12:44PM BLOOD ___ 
___ Plt ___
___ 12:44PM BLOOD ___ 
___ 
___ 
___
___ 12:44PM BLOOD ___ 
___
___ 12:44PM BLOOD ___
___ 12:44PM BLOOD ___
___ 06:00AM BLOOD ___ 
___
___ 06:00AM BLOOD ___ 
___ Plt ___

Significant studies: 
CXR ___
Impression: Chronic findings without definite superimposed acute
cardiopulmonary process.

CTA chest ___
1. No evidence of pulmonary embolism or aortic abnormality.
2. ___ and centrilobular opacities predominating in the 
left upper
lobe, superior right lower lobe, and anterior right upper lobe 
are new or
significantly worsened from prior and concerning for infection 
or
inflammation.
3. New small left pleural effusion.
4. 6 mm left upper lobe nodule is stable from prior but larger 
compared to
exam in ___.  Additional new 6 mm left upper lobe nodule 
may be
inflammatory infectious in etiology given rapid interval 
development and
surrounding ___ opacities described above.  Recommend 
attention on
___.
 
Brief Hospital Course:
Mr. ___ is a ___ male with metastatic 
leiomyosarcoma to the bone and liver on Gemcitabine/Docetaxel 
a/w acute hypoxic respiratory failure due to CAP. 

# Acute Hypoxic Respiratory Failure ___ Pneumonia: 
Patient presented with new O2 requirement, shortness of breath, 
and worsening infiltrate on imaging. Flu negative. Of note he 
does have history of MAC and radiation pneumonitis for which he 
follows with pulmonology. Prior to discharge, the patient did 
not have any oxygen requirement at rest. However, he was noted 
to desat to 78% on ambulation which improved w/ 2L oxygen 
supplementation via nasal cannula. The patient was asymtomatic 
during this desaturation. He was advised to stay in the hospital 
to coordinate home oxygen delivery. However, he refused and 
wanted to he discharged home. He reported he would not exert 
himself and he would discuss with his outpatient regarding 
setting up home oxygen. 
- Cont cefpodoxime/doxycycline, plan for 5d course of total abx

# Metastatic Leiomyosarcoma:
# Secondary Neoplasm of Bone:
# Secondary Neoplasm of Liver: 
Treating with palliative intent with gemctiabine and docetaxel. 
Wife at bedside who has been in contact w/ outpatient providers.

# Leukocytosis, downtrending 

# Anemia in Malignancy: Stable.

# ___ Pain
- Continue home oxycodone, oxycontin, and gabapentin

# Malnutrition
- Continue home megace and mirtazapine
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 1200 mg PO TID 
2. Megestrol Acetate 625 mg PO DAILY 
3. Mirtazapine 30 mg PO QHS 
4. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

5. Dexamethasone 8 mg PO AS DIRECTED WITH CHEMOTHERAPY 
6. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
8. OxyCODONE SR (OxyCONTIN) 10 mg PO QHS 
9. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of 
breath/wheezing 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO BID 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO BID 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*5 Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX ___  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 dose by mouth 
once a day Disp #*30 Packet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of 
breath/wheezing  
6.  Dexamethasone 8 mg PO AS DIRECTED WITH CHEMOTHERAPY  
7.  Gabapentin 1200 mg PO TID  
8.  Megestrol Acetate 625 mg PO DAILY  
9.  Mirtazapine 30 mg PO QHS  
10.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
11.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
12.  OxyCODONE SR (OxyCONTIN) 10 mg PO QHS  
13.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CAP

 
Discharge Condition:
Discharge condition: stable
Mental status: ANox3
Ambulatory 

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with pneumonia. You were 
treated w/ supplemental oxygen and IV antibiotics. You did well 
with this intervention. You were transitioned to oral 
antibiotics and will complete the course of antibiotics at home. 
You were advised to ___ with your PCP, hematology/oncology 
and pulmonology as outpatient. 

It was a pleasure taking care of you. 

-Your ___ team 
 
Followup Instructions:
___